US09169249B2
7-Azido-3,3-dimethylindolizin-5(1H)-one (0.3 g, 1.5 mmol) is dissolved in EtOH (20 ml). The clear solution is transferred to a Parr hydrogenation flask and placed under nitrogen. 10% Pd—C (0.25 g) was added to the Parr flask under nitrogen. The mixture was then transferred to a Pan hydrogenation apparatus, evacuated and filled with hydrogen (×3). The mixture was hydrogenated at 30 psi (optionally topping-up hydrogen) until LC/MS and TLC indicated complete reaction to the amine. After complete reaction, the mixture was placed under nitrogen and filtered through a small pad of Celite. The filter cake was washed with MeOH (×3) and the filtrate was concentrated under vacuum to leave the 7-amino-hexahydro-3,3-dimethylindolizin-5-(1H)-one in 89% yield (0.25 g).

reactant | 7-Azido-3,3-dimethylindolizin-5(1H)-one | 1.5 mmol, 0.3 g | N(=[N+]=[N-])C1=CC(N2C(CCC2=C1)(C)C)=O | C10H12N4O
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | Pd—C | 0.25 g | [Pd] | Pd
product | 7-amino-hexahydro-3,3-dimethylindolizin-5-(1H)-one | 89% yield | NC1CC(N2C(CCC2C1)(C)C)=O | C10H18N2O
